US09193689B2
To a stirred solution of 4-cyanobenzoic acid (322 mg, 2.19 mmol) in CH2Cl2 (10 mL) was added TBTU (702 mg, 2.19 mmol) and N,N-diisopropylethylamine (1.14 mL, 6.54 mmol) and the reaction mixture stirred at RT for 10 min. 4-Methylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester (500 mg, 2.19 mmol) in DMF (4 mL) was added and the reaction mixture was stirred at RT for 2 h. The crude material was concentrated in vacuo and purified by silica gel column chromatography, eluting with isohexane and increasing the polarity to 100% EtOAc to afford 4-{[(4-cyano-benzoyl)-methyl-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester as a orange solid (700 mg, 89%).

reactant | 4-cyanobenzoic acid | 2.19 mmol, 322 mg | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | TBTU | 2.19 mmol, 702 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethylamine | 6.54 mmol, 1.14 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-Methylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 2.19 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC | C12H24N2O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-{[(4-cyano-benzoyl)-methyl-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 700 mg, 89% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C)C(C1=CC=C(C=C1)C#N)=O | C20H27N3O3
